US05250517
3.6 ml of phosgene in toluene (20%. 6.95 mmol) were added dropwise while cooling with ice to 0.6 ml (6.95 mmol) of morpholine and 2.4 ml (13.9 mmol) of Hunig base in 20 ml of methylene chloride, and the solution was stirred at 0° for 3 hours. Thereafter, 1.5 g (6.95 mmol) of phenylalanine methyl ester hydrochloride were added and the reaction solution was stirred at 40° for 12 hours. Subsequently, the reaction solution was poured onto ice and extracted with methylene chloride. The organic phase was dried over sodium sulfate and evaporated under reduced pressure. Chromatography of the residue on silica gel using a 2:1 mixture of methylene chloride and ether as the eluting agent yielded 400 mg (20%) of N-(morpholino-carbamoyl)-3-phenyl-L-alanine methyl ester in the form of a resin. MS: 292 (M)+.

reactant | phosgene | 3.6 ml | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 6.95 mmol | C1(=CC=CC=C1)C | C7H8
reactant | morpholine | 6.95 mmol, 0.6 ml | N1CCOCC1 | C4H9NO
reactant | Hunig base | 13.9 mmol, 2.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | phenylalanine methyl ester hydrochloride | 6.95 mmol, 1.5 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(morpholino-carbamoyl)-3-phenyl-L-alanine methyl ester | 400 mg, 20% | COC([C@@H](NC(NN1CCOCC1)=O)CC1=CC=CC=C1)=O | C15H21N3O4
